US06573279B1
A conventional amidation reaction was carried out using a dichloromethane solution (40 ml) of 2.53 g of (±)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline, 3.0 g of N-(tert-butyloxycarbonyl)nipecotic acid, 3.0 g of 1-ethyl-3-[3-(dimethylamino)propyl]carbodiimide hydrochloride and 0.89 g of 1-hydroxybenztriazole to give 3.77 g of (±)-6,7-dimethoxy-2-{[1-(tert-butyloxycarbonyl)-3-piperidyl]carbonyl}-1,2,3,4-tetrahydroisoquinoline. Deprotection of 3.77 g of (±)-6,7-dimethoxy-2-{[1-(tert-butyloxycarbonyl)-3-piperidyl]carbonyl}-1,2,3,4-tetrahydroisoquinoline was further carried out using 10 ml of an ethyl acetate solution containing 4N hydrochloric acid to give 2.30 g of (±)-6,7-dimethoxy-2-[(3-piperidyl)carbonyl]-1,2,3,4-tetrahydroisoquinoline hydrochloride as colorless crystals.

reactant | (±)-6,7-dimethoxy-2-{[1-(tert-butyloxycarbonyl)-3-piperidyl]carbonyl}-1,2,3,4-tetrahydroisoquinoline | 3.77 g | COC=1C=C2CCN(CC2=CC1OC)C(=O)C1CN(CCC1)C(=O)OC(C)(C)C | C22H32N2O5
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | (±)-6,7-dimethoxy-2-[(3-piperidyl)carbonyl]-1,2,3,4-tetrahydroisoquinoline hydrochloride | 2.30 g | Cl.COC=1C=C2CCN(CC2=CC1OC)C(=O)C1CNCCC1 | InChI=1S/C17H24N2O3.ClH/c1-21-15-8-12-5-7-19(11-14(12)9-16(15)22-2)17(20)13-4-3-6-18-10-13;/h8-9,13,18H,3-7,10-11H2,1-2H3;1H
